US04670434
N-cyclohexyl-N-methyl-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide
To 500 ml of pyridine was added 5.14 g of N-cyclohexyl-N-methyl-4-(2-oxo-3-hydroxymethyl-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide to which was added 0.9 ml of mesyl chloride. This solution was cooled to about 0°-5° C., at which time 7.12 ml of DIPEA was added. This solution was stirred at room temperature for 3 hours. The pyridine was stripped under high vacuum at about 40° C. to give a suspension which was trituratured with water, centrifuged and crystals of the captioned compound collected by filtration: m.p. 176°-178° C.

reactant | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
reactant | N-cyclohexyl-N-methyl-4-(2-oxo-3-hydroxymethyl-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide | 5.14 g | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3CO)=O)=O)C | C22H30N4O4
reactant | mesyl chloride | 0.9 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | DIPEA | 7.12 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
product | N-cyclohexyl-N-methyl-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3=C)=O)=O)C | C22H28N4O3
